US08802688B2
Step 1: ethyl 2-(methylamino)quinoline-7-carboxylate
To a −70° C. solution of 7-(ethoxycarbonyl)quinoline 1-oxide (1.67 g, 7.70 mmol) in dichloromethane (80 mL) was added trifluoromethanesulfonic anhydride (1.43 mL, 8.47 mmol) dropwise, under a nitrogen atmosphere. The mixture was stirred at −70° C. for 5 minutes. Then a solution of methylamine in tetrahydrofuran (21 mL, 42 mmol, 2.0 M) was added dropwise at −70° C. The mixture was stirred for 5 minutes and then the reaction was quenched with water (20 mL). The layers were separated and the aqueous was extracted with dichloromethane (3×30 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by flash column chromatography gave the title compound (720 mg, 41%) as a yellow solid. 1H NMR (400 MHz, CDCl3, δ): 8.42 (s, 1 H), 7.84-7.82 (m, 2 H), 7.63-7.61 (m, 1 H), 6.72-6.70 (m, 1 H), 4.92 (br. s., 1 H), 4.44-4.38 (m, 2 H), 3.12-3.11 (m, 3 H), 1.44-1.40 (m, 3 H).

reactant | 7-(ethoxycarbonyl)quinoline 1-oxide | 7.70 mmol, 1.67 g | C(C)OC(=O)C1=CC=C2C=CC=[N+](C2=C1)[O-] | C12H11NO3
reactant | trifluoromethanesulfonic anhydride | 8.47 mmol, 1.43 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methylamine | CN | CH5N
reactant | tetrahydrofuran | 42 mmol, 2.0 M, 21 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | ethyl 2-(methylamino)quinoline-7-carboxylate | 720 mg, 41% | CNC1=NC2=CC(=CC=C2C=C1)C(=O)OCC | C13H14N2O2
